US06498165B1
2-[3-Chlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-chlorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 336.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.58 (s, 1H); 8.45 (d, J=5.3 Hz, 1H); 8.01 (br s, 1H); 7.86 (m, 1H); 7.28 (m, 6H); 6.87 (d, J=5.3 Hz, 1H); 5.80 (br s, 1H); 4.74 (d, J=5.9 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | 2-[3-Chlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1 | C18H14ClN5
